US08207146B2
(E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)acrylamide
480 mg of (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acrylic acid, 122 mg of commercial 1-methyl-1H-pyrazol-3-ylamine and 0.76 ml of N,N-diisopropylethylamine are dissolved in 7 ml of dimethylformamide. 571 mg of HATU and 204 mg of HOAT are added, and the mixture is stirred at room temperature for one hour. The reaction mixture is then diluted by addition of 100 ml of ethyl acetate and washed five times with in each case 30 ml of water. The organic phase is dried over MgSO4, and the solvent is then removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane (100%)=>:ethyl acetate (100%). This gives 360 mg of (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)acrylamide.

reactant | (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acrylic acid | 480 mg | C1(CCCC1)/C=C(/C(=O)O)\C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C21H21NO4S
reactant | 1-methyl-1H-pyrazol-3-ylamine | 122 mg | CN1N=C(C=C1)N | C4H7N3
reactant | N,N-diisopropylethylamine | 0.76 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 571 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 204 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)acrylamide | C1(CCCC1)/C=C(/C(=O)NC1=NN(C=C1)C)\C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C25H26N4O3S
